US06414149B1
Step A: (R)-1-[4-(4-Quinoxalin-2-yl-piperazin-1-yl)-pyrimidin-2-yl]-ethyl acetate
To a solution of (R)-1-(4-chloro-pyrimidin-2-yl)-ethyl acetate (prepared according to the method of Preparation Five, 7.3 g, 36.2 mmol) in isopropanol (240 mL) was added triethylamine (10.1 mL, 72.4 mmol) followed by 2-(1-piperazinyl)quinoxaline (10.1 g, 47.1 mmol; J. Med. Chem. 1981, 24, 93). This mixture was stirred at room temperature overnight then concentrated. The residue was diluted with saturated aqueous sodium bicarbonate and extracted with chloroform (5×). The combined organic extracts were dried over sodium sulfate, filtered, evaporated, and purified by flash column chromatography (2% methanol/chloroform) to give 12.4 g (91%) of the title compound of Example 1, Step A as a yellow foam. 1H NMR (CDCl3, 250 MHz) δ8.61 (s, 1H), 8.27 (d, 1H), 7.91 (dd, 1H), 7.72 (dd, 1H), 7.61 (td, 1H), 7.44 (td, 1H), 6.43 (d, 1H), 5.70 (q, 1H), 3.96-3.84 (c, 8H), 2.18 (s, 3H), 1.61 (d, 3H); MS (CI/NH3) 379 (MH+).

reactant | (R)-1-(4-chloro-pyrimidin-2-yl)-ethyl acetate | C(C)(=O)O[C@H](C)C1=NC=CC(=N1)Cl | C8H9ClN2O2
reactant | triethylamine | 72.4 mmol, 10.1 mL | C(C)N(CC)CC | C6H15N
reactant | 2-(1-piperazinyl)quinoxaline | 47.1 mmol, 10.1 g | N1(CCNCC1)C1=NC2=CC=CC=C2N=C1 | C12H14N4
solvent | isopropanol | 240 mL | C(C)(C)O | C3H8O
product | (R)-1-[4-(4-Quinoxalin-2-yl-piperazin-1-yl)-pyrimidin-2-yl]-ethyl acetate | 12.4 g, 91% | C(C)(=O)O[C@H](C)C1=NC=CC(=N1)N1CCN(CC1)C1=NC2=CC=CC=C2N=C1 | C20H22N6O2
